US07199243B2
10% Palladium on carbon (4 mg, 10 wt %) was added to a solution of 2-(3-{1-[(4-Isopropyl-phenoxy)-acetyl]-piperidin-3-yl}-phenoxy)-2-methyl-propionic acid benzyl ester (35 mg, 0.066 mmol) in methanol (2 mL) and the resulting mixture hydrogenated at atmospheric pressure for 3 h. The reaction mixture was filtered through a plug of celite and the celite plug washed thoroughly with ethyl acetate. The combined filtrates were concentrated under reduced pressure to provide 29 mg (99%) of 2-(3-{1-[(4-Isopropyl-phenoxy)-acetyl]-piperidin-3-yl}-phenoxy)-2-methyl-propionic acid as a clear oil.

reactant | 2-(3-{1-[(4-Isopropyl-phenoxy)-acetyl]-piperidin-3-yl}-phenoxy)-2-methyl-propionic acid benzyl ester | 0.066 mmol, 35 mg | C(C1=CC=CC=C1)OC(C(C)(C)OC1=CC(=CC=C1)C1CN(CCC1)C(COC1=CC=C(C=C1)C(C)C)=O)=O | C33H39NO5
catalyst | Palladium on carbon | 4 mg | [Pd] | Pd
solvent | methanol | 2 mL | CO | CH4O
product | 2-(3-{1-[(4-Isopropyl-phenoxy)-acetyl]-piperidin-3-yl}-phenoxy)-2-methyl-propionic acid | 29 mg, 99% | C(C)(C)C1=CC=C(OCC(=O)N2CC(CCC2)C=2C=C(OC(C(=O)O)(C)C)C=CC2)C=C1 | C26H33NO5
